US07446102B2
Benzyl(2-{[N5-[{[(benzyloxy)carbonyl]amino}(imino)methyl]-N2-(tert-butoxycarbonyl)-L-ornithyl]amino}ethyl)carbamate
419.3 mg (1.1 mmol) of HATU and 258.5 mg (2 mmol) of N,N-diisopropylethylamine are added to a solution of 408.4 mg (1 mmol) of N5-[{[(benzyloxy)carbonyl]amino}(imino)methyl]-N2-(tert-butoxycarbonyl)-L-ornithine in 15 ml of anhydrous DMF. After stirring at RT for 15 min, 253.76 mg (1.1 mmol) of benzyl (2-aminoethyl)carbamate hydrochloride are added. The reaction mixture is stirred at RT for 15 h. The solvent is then evaporated and the residue is taken up in dichloromethane. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The crude product is purified by preparative HPLC.

reactant | HATU | 1.1 mmol, 419.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2 mmol, 258.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N5-[{[(benzyloxy)carbonyl]amino}(imino)methyl]-N2-(tert-butoxycarbonyl)-L-ornithine | 1 mmol, 408.4 mg | C(C1=CC=CC=C1)OC(=O)NC(NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O)=N | C19H28N4O6
reactant | benzyl (2-aminoethyl)carbamate hydrochloride | 1.1 mmol, 253.76 mg | Cl.NCCNC(OCC1=CC=CC=C1)=O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Benzyl(2-{[N5-[{[(benzyloxy)carbonyl]amino}(imino)methyl]-N2-(tert-butoxycarbonyl)-L-ornithyl]amino}ethyl)carbamate | C(C1=CC=CC=C1)OC(NCCNC([C@@H](NC(=O)OC(C)(C)C)CCCNC(=N)NC(=O)OCC1=CC=CC=C1)=O)=O | C29H40N6O7
